US08212041B2
A 100 mL sealed tube was charged with 4-chloro-2-fluoro-1-iodobenzene (0.498 ml, 3.90 mmol), pyrrolidin-2-one (0.598 ml, 7.80 mmol), (1R,2R)-cyclohexane-1,2-diamine (0.0703 ml, 0.585 mmol), potassium phosphate (1.66 g, 7.80 mmol), copper (I) iodide (0.0223 g, 0.117 mmol), and 1,4-dioxane (4.00 ml, 46.8 mmol), then flushed with argon, sealed, and placed in a 110° C. oil bath for 17 hours. The reaction mixture was filtered through a pad of silica gel, eluting with EtOAc and DCM, then the filtrate was concentrated to yield a brown oil This was purified by column chromatography using a 40 g ISCO column, eluting with a gradient of 3-5% MeOH/DCM over 30 minutes to give 1-(4-chloro-2-fluorophenyl)pyrrolidin-2-one (0.903 g, 108% yield) as a yellow solid.

reactant | 4-chloro-2-fluoro-1-iodobenzene | 3.90 mmol, 0.498 ml | ClC1=CC(=C(C=C1)I)F | C6H3ClFI
reactant | pyrrolidin-2-one | 7.80 mmol, 0.598 ml | N1C(CCC1)=O | C4H7NO
reactant | (1R,2R)-cyclohexane-1,2-diamine | 0.585 mmol, 0.0703 ml | [C@@H]1([C@@H](CCCC1)N)N | C6H14N2
reactant | potassium phosphate | 7.80 mmol, 1.66 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 1,4-dioxane | 46.8 mmol, 4.00 ml | O1CCOCC1 | C4H8O2
catalyst | copper (I) iodide | 0.117 mmol, 0.0223 g | [Cu]I
product | 1-(4-chloro-2-fluorophenyl)pyrrolidin-2-one | 0.903 g, 108% yield | ClC1=CC(=C(C=C1)N1C(CCC1)=O)F | C10H9ClFNO
